* Python Script Created Netlist File
* Global VDD node
V1 VDD 0 1.8
* Input Current Sources
I0 VDD IN0 PULSE(30n 0 110u 1n 1n 330u)
* Input LIF and Tempotron Nodes
XL_LT2_0 IN0 V_LT2_0 liftest_mod
XT_LT2_LT1_0 V_LT2_0 ROW_LT2_0 ROW_LT2_0p tempotroncircuit_new
* Crossbar Resistors
R_LT2_LT1_00 ROW_LT2_0 COL_LT1_0 304.8979591836735
R_LT2_LT1_00p ROW_LT2_0p COL_LT1_0 332
R_LT2_LT1_01 ROW_LT2_0 COL_LT1_1 229.84615384615384
R_LT2_LT1_01p ROW_LT2_0p COL_LT1_1 332
* CCCS and LT1 LIF
XCCCS_LT2_LT1_0 COL_LT1_0 BXL_LT1_0 i_controlled_i_source
XL_LT1_0 BXL_LT1_0 V_LT1_0 liftest_mod 
XCCCS_LT2_LT1_1 COL_LT1_1 BXL_LT1_1 i_controlled_i_source
XL_LT1_1 BXL_LT1_1 V_LT1_1 liftest_mod 
*LT1-WM Tempotron, Synapse, CCCS, WM LIF
XT_LT1_WM_0 V_LT1_0 ROW_LT1_0 ROW_LT1_0p tempotroncircuit_new
R_LT1_WM_00 ROW_LT1_0 COL_WM_0 199.2
R_LT1_WM_00p ROW_LT1_0p COL_WM_0 332
XCCCS_LT1_WM_0 COL_WM_0 BXL_WM_0 i_controlled_i_source
XL_WM_0 BXL_WM_0 V_WM_0 liftest_mod 
XT_LT1_WM_1 V_LT1_1 ROW_LT1_1 ROW_LT1_1p tempotroncircuit_new
R_LT1_WM_11 ROW_LT1_1 COL_WM_1 199.2
R_LT1_WM_11p ROW_LT1_1p COL_WM_1 332
XCCCS_LT1_WM_1 COL_WM_1 BXL_WM_1 i_controlled_i_source
XL_WM_1 BXL_WM_1 V_WM_1 liftest_mod 
*WM Feedback
XT_WM_WM_0 V_WM_0 ROW_WM_FB_0 ROW_WM_FB_0p tempotroncircuit_new
R_WM_WM_00 ROW_WM_FB_0 COL_WM_0 270
R_WM_WM_00p ROW_WM_FB_0p COL_WM_0 332
XT_WM_WM_1 V_WM_1 ROW_WM_FB_1 ROW_WM_FB_1p tempotroncircuit_new
R_WM_WM_11 ROW_WM_FB_1 COL_WM_1 270
R_WM_WM_11p ROW_WM_FB_1p COL_WM_1 332
* block symbol definitions
.subckt liftest_mod Vmem Out
C1 Vmem 0 0.5p
V1 VDD 0 1.8
R8 Vmem 0 33.33e6
V2 N008 0 90m
C2 VC2 0 50p
R2 N009 0 69k
A1 VC2 0 0 0 0 0 N010 0 SCHMITT Vhigh=1.8 Vt=100m Vh=60m Trise=1n Tfall=1n
V5 VSS 0 -1.8
XU1 Vmem N008 VDD VSS N007 TLV9032
M1 N003 N007 0 0 CMOSN w=180n
M2 VDD N007 N003 VDD CMOSP w=180n
V3 N002 0 0.2
M4 VDD N002 N005 VDD CMOSP w=900n
M5 N005 N003 Vmem VDD CMOSP w=540n
M8 VDD N004 N006 VDD CMOSP w=2700n
M7 0 N010 Vmem 0 CMOSN w=1080n m=1
V6 N004 0 0.1
M9 N006 N003 VC2 VDD CMOSP w=27000n
M3 VC2 N003 N009 0 CMOSN w=180n
XU2 N001 Vmem VDD VSS Out TLV9032
V4 N001 0 200m
.ic V(Vmem) = 0
.ic V(VC2) = 0
.include tsmc018.lib
.ends liftest_mod 

.subckt tempotroncircuit_new Vpre Vout Voutp
V1 VDD 0 1.8
V4 VS1 0 0.7
C1 VDD VC1 4p
V5 VS2 0 1.65
V6 VS3 0 1.6
V7 VSS 0 -1.8
V8 VS1p 0 -0.7
V9 VS3p 0 -1.6
V10 VS2p 0 -1.65
C2 VSS VC2 7p
M8 VSS VS3p VC2 VSS CMOSN
M7 VSS VC2 N004 N003 CMOSN l=130n w=200n
C3 N004 0 0.25p
R1 N004 0 6e6
R2 N006 Vout 1k
XU2 0 N006 VDD VSS Voutp level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N006 Voutp 1k
V3 N005 N004 24.72µ
M1 N001 Vpre VDD VSS CMOSN w=540n
M2 VDD Vprep N001 VDD CMOSP w=540n
M3 N001 Vprep VS1 VSS CMOSN w=540n
M4 VS1 Vpre N001 VDD CMOSP w=540n
M6 VDD VS3 VC1 VDD CMOSP w=180n
M5 VDD VC1 N004 VDD CMOSP
M12 N002 Vpre VSS VSS CMOSN w=540n
M13 VSS Vprep N002 VDD CMOSP w=540n
M14 N002 Vprep VS1p VSS CMOSN w=540n
M15 VS1p Vpre N002 VDD CMOSP w=540n
M9 Vprep Vpre VSS VSS CMOSN w=180n
M10 VDD Vpre Vprep VDD CMOSP w=180n
M11 VC1 N001 VS2 VDD PMOS
M16 VC2 N002 VS2p VSS NMOS
XU1 N005 Vout VDD VSS Vout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.ic V(VC1)=1.8
.include ibm130.lib
.ic V(VC2)=-1.8
.ends tempotroncircuit_new 

.subckt i_controlled_i_source In Out
V1 VDD 0 1.8
V2 VSS 0 -1.8
R2 In N003 750
XU1 0 In VDD VSS N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Out N002 VDD VSS N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 Out In 15e6
R5 N002 N003 15e6
R6 Out N001 15e6
R7 N001 N002 15e6
.ends i_controlled_i_source 


.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\amodh\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 440u 
.lib C:\Users\amodh\OneDrive\Desktop\working_memory notes\SPICEckts\comparator\tlv9032.lib
.lib LTC.lib
.lib UniversalOpAmp1.lib
.backanno
.end
