* source TLV9032
.EXTERNAL INPUT V+
.EXTERNAL INPUT IN+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT OUT
.EXTERNAL INPUT V-
X_U1         IN+ IN- V+ V- OUT TLV9032
V_VINN2         V+ 0 5
V_VINN         IN- 0 2.5
V_V1         IN+ 0  
+SIN 2.5 200m 100k 0 0 0
V_VINN3         V- 0 0
